US07935815B2
Synthesis of tert-butyl N′-[5-chloro-4-hydroxy-2-(3,4,5-trifluorophenyl)pentanoyl]hydrazinecarboxylate
Lithium chloride (818 mg) was added to a solution of 5-(N′-tert-butoxycarbonylhydrazino)-2-hydroxy-5-oxo-4-(3,4,5-trifluorophenyl)pentyl toluene-4-sulfonate (1.03 g) in DMF (8 mL). The reaction solution was stirred at 80° C. for three hours and then left to cool to room temperature. Water and ethyl acetate were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 734 mg of the title compound. The property value of the compound is as follows.

reactant | Lithium chloride | 818 mg | [Cl-].[Li+]
reactant | 5-(N′-tert-butoxycarbonylhydrazino)-2-hydroxy-5-oxo-4-(3,4,5-trifluorophenyl)pentyl toluene-4-sulfonate | 1.03 g | C1(=CC=C(C=C1)S(=O)(=O)OCC(CC(C(=O)NNC(=O)OC(C)(C)C)C1=CC(=C(C(=C1)F)F)F)O)C | C23H27F3N2O7S
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | tert-butyl N′-[5-chloro-4-hydroxy-2-(3,4,5-trifluorophenyl)pentanoyl]hydrazinecarboxylate | 734 mg | ClCC(CC(C(=O)NNC(=O)OC(C)(C)C)C1=CC(=C(C(=C1)F)F)F)O | C16H20ClF3N2O4
